US07705053B2
Production of 3-[2-(4-cyano-phenyl)-vinyl]-4-methoxy-benzamide (Compound 2-3-8)
The captioned compound was synthesized from 4-cyanobenzyl bromide and 3-formyl-4-methoxybenzamide by the same procedure as in the manufacturing method described in Example 2-3-6.

reactant | 4-cyanobenzyl bromide | C(#N)C1=CC=C(CBr)C=C1 | C8H6BrN
reactant | 3-formyl-4-methoxybenzamide | C(=O)C=1C=C(C(=O)N)C=CC1OC | C9H9NO3
product | 3-[2-(4-cyano-phenyl)-vinyl]-4-methoxy-benzamide | C(#N)C1=CC=C(C=C1)C=CC=1C=C(C(=O)N)C=CC1OC | C17H14N2O2
